US04125554
104 g of p-iodophenethyl alcohol was combined in solution with 216 g of hydrobromic acid (48%) and 36 g of thiourea in 100 ml of water and reacted in accordance with the procedure outlined in Example I(a). Vacuum distillation at 91°-95° and 0.2 mm Hg gave a 27% yield of p-iodophenethyl thiol having a refractive index of n25D = 1.6411, an ALD of 0.56 ml/Kg and a formula of C8H8IS.

reactant | p-iodophenethyl alcohol | 104 g | IC1=CC=C(CCO)C=C1 | C8H9IO
reactant | hydrobromic acid | 216 g | Br | BrH
reactant | thiourea | 36 g | NC(=S)N | CH4N2S
solvent | water | 100 ml | O | H2O
product | p-iodophenethyl thiol | 27% yield | IC1=CC=C(CCS)C=C1 | C8H9IS
